Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
RUQ abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP ___
Pouchoscopy ___

 
History of Present Illness:
Ms. ___ is a ___ female with a history of 
ulcerative
colitis status post colectomy c/b chronic pouchitis, primary
sclerosing cholangitis, and sarcoidosis on Plaquenil p/w ruq
pain.

She was recently hospitalized from ___ for acute
cholangitis requiring ERCP and plastic stent for noted 
stricture.
She was treated with cefepime/flagyl. Also she had pouchoscopy
during this hospitalization which showed ulcerated mass at the
ileoanal anastomosis, biopsy found cytology showing atypical
crowded granular epithelial cells. She was then discharged on
cipro/flagyl for a total ABx course of 10-days (last day ___.

On ___, she developed waxing/waning, nonradiating RUQ dull 
aching
pain. Pain is worse with cough or deep breaths. She had no
associated nausea or vomiting and reports that her appetite was
relatively unaffected. She has not had any change in her bowel
movements including color or blood. She has no fever chills or
sweats or malaise. The next day, the pain was persisting and so
she called her outpatient hepatologist, Dr. ___
prescribed ciprofloxacin (she received one dose) advised her to
return to the ED.

Denies hematuria/dysuria/urinary frequency, constipation,
diarrhea, melena, bright red blood per rectum, vomiting, 
dyspnea,
palpitations. She has had an occasional cough which is
nonproductive over the past several days.

In the ED initial vitals:
98.6 | 83 | 130/59 | 16 at 100% RA

- Exam notable for:
Mild tenderness to right mid and upper abdomen, pain on
inspiration when palpating ruq but no true inspiratory arrest

- Labs notable for:
CBC: WBC 10.9; Hgb 11.1; Plt 424
Chem7: 
141 | 107 | 15
--------------<87
4.6 | 22 | 0.6
LFTs: ALT 29; AST 51; AP 351; Tbili 1.6
Coags: ___ 14.5; PTT 31.2; INR 1.3

- Imaging notable for:
RUQUS: 
1. Focal abnormalities in the left and right lobes of the liver
that are more cystic in appearance on today's exam in comparison
to prior MRCP and ultrasound that may represent evolution of
organizing abscesses. Recommend MRI for further delineation.
2. Resolution of previously seen intrahepatic biliary ductal
dilatation. Pneumobilia consistent with prior instrumentation

- Consults:
ERCP, Hepatology, ___

- Patient was given:
Ciprofloxacin 400mg IV and flagyl 50mg IV
 
Past Medical History:
- Ulcerative Colitis, s/p colectomy and ileoanal anastomosis, 
c/b
recurrent pouchitis  
- Primary Sclerosing Cholangitis 
- Sarcoidosis, with recurrent lower extremity ulcers  
- Carpal Tunnel Syndrome 
- History of DVT ___ years ago
- Osteoarthritis 

 
Social History:
___
Family History:
Mother: pulmonary sarcoidosis, appendiceal cancer, HTN, OSA    
 
Physical Exam:
ADMISSION EXAM:
===============
VS: ___ Temp: 98.1 PO BP: 119/66 HR: 77 RR: 16 O2 sat:
99% O2 delivery: Ra 
GENERAL: Lying in bed in NAD. Answering questions appropriately
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: nondistended. Soft without guarding. Tender to 
palpation
in RUQ
EXTREMITIES: no cyanosis, clubbing, or edema. 
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: warm and well perfused, no rashes. 1cm shallow ulcer on
medial aspect of L ankle without surrounding erythema or
discharge

DISCHARGE EXAM:
===============
24 HR Data (last updated ___ @ 913)
    Temp: 98.2 (Tm 98.4), BP: 113/53 (106-115/53-71), HR: 78
(76-78), RR: 16 (___), O2 sat: 95% (95-99), O2 delivery: Ra  
GENERAL: NAD
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: nondistended. Soft without guarding. Tender to 
palpation
in RUQ
EXTREMITIES: no cyanosis, clubbing, or edema. 
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: warm and well perfused, no rashes. 1cm shallow ulcer on
medial aspect of L ankle without surrounding erythema or
discharge
 
Pertinent Results:
ADMISSION LABS:

___ 02:45PM BLOOD WBC-10.9* RBC-3.69* Hgb-11.1* Hct-36.0 
MCV-98 MCH-30.1 MCHC-30.8* RDW-15.6* RDWSD-55.7* Plt ___
___ 02:45PM BLOOD Plt ___
___ 03:07PM BLOOD ___ PTT-31.2 ___
___ 02:45PM BLOOD Glucose-87 UreaN-15 Creat-0.6 Na-141 
K-4.6 Cl-107 HCO3-22 AnGap-12
___ 02:45PM BLOOD ALT-29 AST-51* AlkPhos-351* TotBili-1.6*
___ 02:45PM BLOOD Albumin-3.5
___ 06:39AM BLOOD CRP-49.2*

DISCHARGE LABS:

___ 05:35AM BLOOD WBC-9.6 RBC-3.57* Hgb-10.6* Hct-33.9* 
MCV-95 MCH-29.7 MCHC-31.3* RDW-14.9 RDWSD-52.3* Plt ___
___ 05:35AM BLOOD Glucose-85 UreaN-15 Creat-0.6 Na-142 
K-4.5 Cl-112* HCO3-20* AnGap-10
___ 05:35AM BLOOD ALT-24 AST-52* AlkPhos-345* TotBili-1.2
___ 05:35AM BLOOD Albumin-3.1* Calcium-9.1 Phos-3.2 Mg-1.8

STUDIES:

___ 03:08PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 03:08PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-SM*
___ 03:08PM URINE RBC-3* WBC-9* Bacteri-FEW* Yeast-NONE 
Epi-6
Blood and urine cultures without any growth.

CXR ___:
FINDINGS:  
  
Inspiration expiration views show no pneumothorax.  The previous 
identified right hemithorax interface has changed position and 
most likely represents a skin fold. 
IMPRESSION:  
No pneumothorax

Pouchoscopy ___ normal mucosa in the pouch and neoTI. Polyp (4mm 
in mid pouch-biopsied), polyp (8mm) in ileo-anal anastomosis
Pathology from polyp: 1. (Pouch polyp): Inflammatory polyp.
2. (Ileal anal anastomosis polyp): Inflamed hyperplastic polyp.

EUS ___: thickened CBD wall but normal diameter. Air in bile 
duct, creating artifact in poor visualization of CBD at porta 
hepatis. No discreet masses or lesions. Dilated PD, measuring 
5mm in  maximum diameter extending to the level of ampulla. No 
discreet masses in pancreatic head.

ERCP ___: stent removal. Previously dilated stricture at distal 
___ of CBD not present. Brushings taken for cytology and FISH. 
Limited cholangiogram performed due to clinical concern for 
cholangitis. No stricture seen and therefore no new stent was 
deployed. Biliary sweeps removed stones. Intrahepatic ducts not 
injected with contrast.

CBD brushings: 
Common bile duct brushing:
ATYPICAL.
Atypical ductal cells in sheets in a background of 
reactive-appearing ductal cells with focal admixed
neutrophils and bile pigment.

FNA perigastric: Lymph node, perigastric, EUS-guided FNA:
NEGATIVE FOR MALIGNANT CELLS.
Lymphocytes consistent with lymph node sampling.
Rare group of glandular cells, favor gastrointestinal 
contamination.

MRCP ___: 
1. Cirrhotic liver with features suggestive of chronic/acute 
PSC. 
2. In the interim, there is mild worsening with development of 
few small 
abscesses, the largest measuring 11 mm in the left lobe and 10 
mm on the right lobe. 
3. 3 cm periesophageal lymphadenopathy unchanged from prior of 
___, likely related to known sarcoidosis. 

 
Brief Hospital Course:
___ is a ___ female with a history of ulcerative 
colitis status post colectomy c/b chronic pouchitis, primary 
sclerosing cholangitis, and sarcoidosis on Plaquenil presenting 
with RUQ abdominal pain.

ACUTE MANAGEMENT:
==================
# Acute on chronic cholangitis complicated by liver abscess
# H/o Primary Sclerosing Cholangitis
Recently hospitalized for acute cholangitis s/p ERCP with 
plastic stent and 10-day IV antibiotic course. At that time, 
other than abdominal pain she had no fever or other symptoms. 
This admission she presented similarly. Was found on MRCP to 
have small abscess in right and left lobe of liver, concerning 
for inadequately treated infection from her prior admission. 
ERCP found that stricture noted during previous study was no 
longer present, plastic biliary stent was removed without 
replacement. EBUS found enlarged pancreatic LNs and one was 
biopsied, with path negative for any malignant cells. Cell 
brushings from bile duct showing atypical cells. Plan to treat 
empirically with 4 weeks of IV ceftriaxone and PO metronidazole.

# Hx atypical cells in ileal pouch. 
Underwent sigmoidoscopy while inpatient with biopsies of nodules 
taken. Path with benign results (inflammed polyp and inflamed 
hyperplastic polyp).

# Anemia of chronic disease
Presented with hgb 11, baseline appeared to be ___. Stable 
throughout hospital stay.

# Chronic Joint Pain 
# Osteoarthritis 
Held home meloxicam given bleeding risk now that she has early 
cirrhosis.

CHRONIC MANAGEMENT:
====================
# Sarcoidosis
Continued home hydroxychloroquine 200mg BID

# Chronic Diarrhea
Thought to be multifactorial in etiology, and attributable to 
history of ulcerative colitis, her hx of pouchitis, as well as 
irritable bowel syndrome and bile salt malabsorption. Continued 
home loperamide and home codeine-guaifenesin, which patient 
takes at bedtime to prevent diarrhea overnight.

# Bone Health 
# Vitamin D Deficiency 
Continued 2000U vitamin D daily 

CORE MEASURES:
==============
# CODE: Presumed FULL
# CONTACT: ___, sister; ___ 

TRANSITIONAL ISSUES:
====================
[] Has atypical cells in bile duct brushings that will need 
ongoing follow up.
[] Repeat MRCP in 3 months to assess for eradication of liver 
abscesses.
[] Has early cirrhosis, home meloxicam held given increased 
bleeding risk.
[] OPAT Diagnosis: acute/chronic cholangitis c/b hepatic 
abscesses
(unclear microbiology) 

OPAT Antimicrobial Regimen and Projected Duration:
Agent & Dose:
 1. ceftriaxone 2 g IV Q24H
 2. metronidazole 500 mg PO Q8H
Start Date: ___
Projected End Date: ___ (tentative plan for 4 weeks of
antibiotics given lack of intervention for source control during
admission, given even largest abscess not large enough to target
safely)

LAB MONITORING RECOMMENDATIONS: NOTE: For lab work to be drawn
after discharge, a specific standing order for Outpatient Lab
Work is required to be placed in the Discharge Worksheet -
Post-Discharge Orders. Please place an order for Outpatient Labs
based on the MEDICATION SPECIFIC GUIDELINE listed below:

ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___

CEFTRIAXONE: WEEKLY: CBC with differential, BUN, Cr, AST, ALT,
Total Bili, ALK PHOS

FOLLOW UP APPOINTMENTS: The ___ will schedule follow up 
and
contact the patient or discharge facility. All questions
regarding outpatient parenteral antibiotics after discharge
should be directed to the ___ R.N.s at
___ or to the on-call ID fellow when the clinic is
closed. 

PLEASE NOTIFY THE ID SERVICE OF ANY QUESTIONS REGARDING THESE
RECOMMENDATIONS OR WITH ANY MEDICATION CHANGES THAT OCCUR AFTER
THE DATE/TIME OF THIS OPAT INTAKE NOTE.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LOPERamide 14 mg PO BID 
2. Ursodiol 250 mg PO BID 
3. Vitamin D ___ UNIT PO DAILY 
4. Hydroxychloroquine Sulfate 200 mg PO BID 
5. meloxicam 7.5 mg oral BID:PRN 
6. GuaiFENesin-CODEINE Phosphate ___ mL PO QHS:PRN cough 
7. DAILY VITAMIN FORMULA-MINERALS (multivitamin with minerals) 1 
tablet oral DAILY 
8. MetroNIDAZOLE 250 mg PO BID 

 
Discharge Medications:
1.  CefTRIAXone 2 gm IV Q24H Duration: 27 Days 
RX *ceftriaxone in dextrose,iso-os 2 gram/50 mL 2 g IV once a 
day Disp #*27 Intravenous Bag Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*80 Tablet Refills:*0 
3.  DAILY VITAMIN FORMULA-MINERALS (multivitamin with minerals) 
1 tablet oral DAILY  
4.  GuaiFENesin-CODEINE Phosphate ___ mL PO QHS:PRN cough  
5.  Hydroxychloroquine Sulfate 200 mg PO BID  
6.  LOPERamide 14 mg PO BID  
7.  Ursodiol 250 mg PO BID  
8.  Vitamin D ___ UNIT PO DAILY  
9. HELD- meloxicam 7.5 mg oral BID:PRN  This medication was 
held. Do not restart meloxicam until your doctor states it is 
okay to do so.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: acute on chronic cholangitis complicated by 
liver abscess

SECONDARY DIAGNOSES: atypical cells in ileal pouch, history of 
primary sclerosing cholangitis, ERCP with stent removal

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
 
It was a pleasure taking care of you at ___.
 
Why you were in the hospital:
-You had abdominal pain.
 
What was done for you in the hospital:
-We obtained an MRI of your abdomen which showed small abscesses 
had developed in your liver. You will be treated with 4 weeks of 
antibiotics for this infection.
-We performed ERCP and removed your biliary stent.
-We performed EBUS and biopsied one of the lymph nodes next to 
your pancreas because the lymph node was enlarged. This lymph 
node did not show any cancer.
-We performed sigmoidoscopy and biopsied a couple suspicious 
looking nodules, they turned out to be benign.
 
What you should do after you leave the hospital:
- Please take your medications as detailed in the discharge 
papers. If you have questions about which medications to take, 
please contact your regular doctor to discuss.
- Please go to your follow up appointments as scheduled in the 
discharge papers. Most of them already have a specific date & 
time set. If there is no specific time specified, and you do not 
hear from their office in ___ business days, please contact the 
office to schedule an appointment.
- Please monitor for worsening symptoms. If you do not feel like 
you are getting better or have any other concerns, please call 
your doctor to discuss or return to the emergency room.
 
We wish you the best!
 
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___